Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
erythromycin base
 
Attending: ___
 
Chief Complaint:
Aphasia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ old right handed woman with a history 
of
CHF, atrial fibrillation, diabetes and progressive memory
problems who presented to OSH with three days of aphasia and was
transferred to ___ for evaluation and monitoring when an
intraparenchymal hemorrhage was found.

She was last in her normal state of health on ___ night
(___) when she went to bed. When she awoke in the morning on
___, her husband had a hard time understanding her because
her word choices were agrammatical and inaccurate and he could
not understand what she was trying to say. In addition, she 
would
get frustrated because she did not quite understand him, 
although
her productive language difficulties were more pronounced. She
was otherwise able to go about her daily activities without
deficits; specifically they did not notice any weakness or 
facial
droop, no bumping into things, no incoordination or difficulty
swallowing. She went to her PCP's office where she was seen by 
an
NP who ordered a carotid Doppler study (no CT head) which was
performed on ___ and didn't show a cause of her
symptoms. Her aphasic symptoms waxed and waned a bit in 
severity,
but she never returned to baseline and they were not clearly
paroxysmal. Her family thought that these language difficulties
were another manifestation of her known progressive memory
problems, but the symptoms were persistent and alarming so her
daughter arranged for her to see her primary care doctor today
(___). Her PCP sent her immediately to the emergency
department. She presented to ___, where
they performed a CT head which showed a left temporal
intraparenchymal hemorrhage. They were concerned for
intraventricular extention and midline shift and so she was
transferred to ___ for closer monitoring and neurosurgical
intervention. She received k-centra prior to her transfer; INR 
at
that time was 2.1.

She was well prior to the onset of these symptoms. She has not
had any recent falls; she ambulates with a walker and her last
fall was ___ years ago. Her husband prepares her medications
and monitors her taking them, so she has not had any missed 
doses
of her multiple blood pressure medications, nor has she been
hypertensive on presentation today. Her daughter reports that 
her
INR was last checked yesterday (after the onset of symptoms) and
was 2.5; however her husband does note that her INR has been
labile in the recent past (near 1 at one check, near 4 at the
next).

She has a history of memory problems and confusion for which she
has had an assessment for dementia which "was concerning," but
the initial recommendation was to treat her sleep apnea which 
she
has not been able to do due to claustrophobia. In addition to
difficulty with recall, she has difficulty using her cell phone,
will be confused between text and phone call; she will often try
to use the phone as a remote; she becomes agitated and sometimes
aggressive when her husband tries to check her blood sugar. She
had an incidental finding of a right frontal meningioma ___
years ago when a CT was performed for delirium in the setting of
a hospitalization for pneumonia. This was followed recently with
a CT head ordered by her PCP to look for progression of the
meningioma. The daughter does not recall the results of that
study, but does not think that anything new was seen. At 
baseline
she has spinal stenosis, back pain and vertigo as well as
generalized weakness which makes it more difficult for her to 
get
around.

 
Past Medical History:
Atrial fibrillation
Sick sinus syndrome
Congestive heart failure
Diabetes Type 2
Asthma
Obstructive sleep apnea (does not tolerate CPAP)
Spinal stenosis
Gout
Cognitive impairment 
Venous insufficiency
Cholecystectomy
Appendectomy
Neuroma removal (L foot)
Dual chamber pacemaker implantation ___: ___, ___ Sensia ("Manufacturer ___ model number
___.  Serial number ___.")
Bilateral knee replacements
 
Social History:
___
Family History:
Mother and father died from lung cancer; Brother with DM,
hypothyroidism, COPD, HTN and essential tremor.
 
Physical Exam:
===ADMISSION EXAM===
 ___:  Morbidly obese, anxious woman lying in bed in NAD. 
 HEENT: NCAT,  no oropharyngeal lesions 
 ___: Irregularly irregular, regular rate, no murmurs, rubs or
gallops. 
 Pulmonary: CTAB though limited by habitus, no crackles or
wheezes in lateral lung fields. Normal WOB on room air but 
became
short of breath with exertion of exam maneuvers. 
 Abdomen: Soft, NT, ND, +BS, no guarding 
 Extremities: Warm, no pitting edema. There is discoloration of
the skin in the lower extremities bilaterally. Distal pulses are
brisk and palpable.

Neurologic Examination: 
 - Mental status: Awake, alert, oriented only to self although
may be limited by language. Inattentive, needed occasional
redirection.  Speech is non-fluent but did produce up to 6 word
output, with frequent neologisms and paraphasic errors. Able to
repeat ___ and "I went to the store" but could not
repeat longer or more phonemically complex sentences. Followed
midline commands but made errors with appendicular commands.
Called a "pen" a 
"pencil." When attempting to write a sentence about the weather,
she said "it is dry" and wrote "dr" and stopped. No dysarthria.
Normal prosody. Could not assess further due to language
deficits.

 - Cranial Nerves: PERRL 3->2 brisk. VF full to finger counting
in all quadrants. EOMI, no nystagmus. V1-V3 without deficits to
light touch bilaterally. R nasolabial fold flattening but
activates symmetrically. Bilateral severe hearing impairment
(baseline). Palate elevation symmetric. SCM/Trapezius strength
___ bilaterally. Tongue midline. 

 - Motor:  Normal bulk. There a low amplitude high frequency
action tremor. There is bilateral pronator drift and giveway
weakness, possibly complicated by apraxia throughout the upper
extremities, though all muscles are ___ at least. Proximal
muscles (deltoid and triceps) are weaker than distal; no clear
asymmetry. In the lower extremities, there is weakness of the R
IP (4+); L IP is 5-;. otherwise quadriceps, hamstrings, TA,
gastroc, ___ and ___ are full.

 - Reflexes:  
    [Bic] [Tri] [___] [Quad] [Gastroc] 
  L  2+    2+     2+      0*       2 
  R  3     2+     3       0*       2  
 Plantar response flexor bilaterally
* post-surgical 

 - Sensory: No deficits to light touch in upper or lower
extremities bilaterally. No extinction to DSS. Could not perform
proprioception examination due to language difficulties.

 - Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements. Difficulty with toe tapping due to language.

 - Gait: Not tested
DISCHARGE EXAM 
___:  Morbidly obese, anxious woman lying in bed in NAD. 
HEENT: NCAT,  no oropharyngeal lesions 
___: Irregularly irregular, regular rate, no murmurs, rubs or
gallops. 
Pulmonary: normal work of breathin
Abdomen: Soft, NT, ND, +BS, no guarding 
Extremities: Warm, no pitting edema.

Neurologic Examination: 
 - Mental status: Awake, alert, oriented only to self, did not
know own age. Answers simple questions and able to provide basic
history. Inattentive.  Produces up to 6 word output at a time,
with occassioinal neologisms and paraphasic errors.  No
dysarthria.
 - Cranial Nerves: PERRL 3->2 brisk. VF full to finger counting
in all quadrants. EOMI, no nystagmus. V1-V3 without deficits to
light touch bilaterally. R nasolabial fold flattening but
activates symmetrically. Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline. 
 - Motor:  Normal bulk. There a low amplitude high frequency
action tremor. There is bilateral pronator drift and giveway
weakness. At least 4s symmetrically in all muscle groups tested,
limited by effort.
 - Sensory: deferred 
 - Coordination: No dysmetria with finger to nose testing
bilaterally.
 - Gait: Not tested
 
Pertinent Results:
===ADMISSION LABS===
___ 05:00PM BLOOD ___ PTT-32.3 ___
___ 05:00PM BLOOD Glucose-97 UreaN-19 Creat-1.3* Na-144 
K-3.8 Cl-105 HCO3-27 AnGap-16
___ 05:55AM BLOOD ALT-8 AST-12 LD(LDH)-185 CK(CPK)-125 
AlkPhos-73 TotBili-0.9
___ 08:55AM BLOOD Calcium-8.9 Phos-2.5* Mg-1.8
___ 05:55AM BLOOD Digoxin-0.6
___ 05:16AM URINE Color-Yellow Appear-Clear Sp ___
___ 05:16AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM 
___ 05:16AM URINE RBC-1 WBC-6* Bacteri-NONE Yeast-NONE 
Epi-0

===RELEVANT IMAGING/RESULTS===
CT ___
Stable 3.5 cm left temporal lobe parenchymal hematoma, with 
moderate
surrounding edema. Partially calcified extra-axial right frontal 
mass measures 2.3 cm, likely meningioma, adjacent brain 
parenchymal edema, can be seen with atypical meningioma.  Brain 
MRI with gadolinium recommended.
No midline shift, hydrocephalus or herniation.
Severe chronic small vessel ischemic changes.
 
CT Head w/contrast ___. Stable left temporal lobe parenchymal acute hematoma and mass 
effect. 
2. No new intracranial hemorrhage. 
3. Right frontal extra-axial mass is stable in size from ___, 
most consistent with meningioma.  Adjacent brain parenchymal 
edema is mildly more prominent since ___, can be seen with 
atypical meningioma. 

CT Head w/o contrast ___
Stable 3.5 cm left temporal lobe parenchymal hematoma, with 
moderate 
surrounding edema. Partially calcified extra-axial right frontal 
mass measures 2.3 cm, likely meningioma, adjacent brain 
parenchymal edema, can be seen with atypical meningioma.  Brain 
MRI with gadolinium recommended. 
No midline shift, hydrocephalus or herniation. Severe chronic 
small vessel ischemic changes. 

 
Brief Hospital Course:
SUMMARY: Ms. ___ is a ___ year old woman with history of 
Atrial fibrillation on warfarin, memory problems, diabetes and 
meningioma who presents with three days of aphasia and was found 
to have a left temporal intraparenchymal hemorrhage. Etiology 
for hemorrhage thought to be likely due to underlying amyloid 
angiopathy. On admission, her examination was notable for a 
mixed aphasia with impairment in comprehension, repetition, 
fluency and naming, as well as right nasolabial fold
flattening and bilateral proximal weakness in upper and lower 
extremities (possibly worse on R than L, but a difficult exam). 
Her CT head on admission was notable for a hematoma in the L 
temporal lobe without any clear intraventricular extension or 
midline shift, as well as her known calcified R frontal 
meningioma with adjacent edema.  Etiology for hemorrhage likely 
related to amyloid angiopathy. Serial CT imaging of the brain 
was stable without any expansion or hemorrhage or edema (notable 
for only mild increase in edema adjacent to meningioma from 
prior CT head imaging in ___.  

HOSPITAL COURSE:
#Left Temporal IPH: Based on the location of the hemorrhage as 
well as her known history of cognitive decline, the etiology was 
felt to be due to cerebral amyloid angiopathy. An additional 
possibility is spontaneous hemorrhage in the setting of 
anticoagulation. She did not have a history of recently elevated 
INR (2.5 the day after her aphasia began), missed blood pressure 
medications, or fall. Her CT head on admission was notable for a 
hematoma in the L temporal lobe without any clear 
intraventricular extension or midline shift, as well as her 
known calcified R frontal meningioma with adjacent edema. To 
evaluate her symptoms further, she underwent repeat head CT 
imaging with contrast, which was stable compared to prior CT 
imaging (obtained from family and uploaded into our system, 
dating back to ___ apart from the new hemorrhage; it did not 
reveal signs of any new mass lesions. MRI was not able to be 
performed due to her pacemaker.

Despite having a mixed aphasia on admission, her neurologic 
examination did improve, to the point that she was able to have 
6 to 7 word output in response to phrases, have some difficulty 
describing a complex phrase and with repetition. In addition, 
she remained deconditioned from baseline. Her blood pressure was 
maintained below SBP 150. Home statin was held due to 
theoretical increased risk of hemorrhage expansion. On discharge 
plan for anticoagulation was to hold all antiplatelet and 
anticoagulants given cerebral amyloid angiopathy.

TRANSITIONAL ISSUES:
-Continue home blood pressure agents; follow serially for goal 
SBP<150
-HOLD anticoagulant and antiplatelet medications including 
Coumadin, aspirin and NSAIDS given potential for further, 
potentially catastrophic expansion of hemorrhage.
-HOLD statin medication given its potential to increase 
hemorrhage 
 
AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Digoxin 0.125 mg PO DAILY 
2. Cardizem CD 240 mg oral DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Losartan Potassium 100 mg PO DAILY 
5. Potassium Chloride 10 mEq PO DAILY 
6. QUEtiapine Fumarate 25 mg PO QHS 
7. Lovastatin 40 mg oral QHS 
___  MD to order daily dose PO DAILY16 
9. meloxicam 15 mg oral QHS 
10. GlipiZIDE 5 mg PO QHS 
11. FoLIC Acid ___ mcg PO QHS 
12. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Cardizem CD 240 mg oral DAILY  
2.  Digoxin 0.125 mg PO DAILY  
3.  FoLIC Acid ___ mcg PO QHS  
4.  GlipiZIDE 5 mg PO QHS  
5.  Losartan Potassium 100 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  Potassium Chloride 10 mEq PO DAILY 
Hold for K >  
8.  QUEtiapine Fumarate 25 mg PO QHS  
9.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left temporal intraparenchymal hemorrhage

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized due to symptoms of difficulty speaking 
resulting from an ACUTE HEMORRHAGIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
-being on anticoagulant medication (i.e. Warfarin/Coumadin)
-diabetes
-high blood pressure
-high cholesterol 

We are changing your medications as follows:
-Stopped Coumadin/warfarin
-Stopped statin due to recurrent lobar hemorrhage

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___